US08729263B2
From 6-(6-methoxy-2-methyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-5-yl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (44 mg, 0.082 mmol), following General Method 3.2 for methoxy deprotection using BBr3, 2-methyl-5-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-1H-benzo[d]imidazol-6-ol was obtained as a white solid after HPLC purification (16 mg, 50% yield). LCMS Rt=0.40 min [Method Q], MS (M+1)=395.4. 1H NMR (METHANOL-d4) δ 8.15 (d, J=10.1 Hz, 1H), 7.88 (s, 1H), 7.34 (d, J=9.6 Hz, 1H), 6.97 (s, 1H), 5.07 (t, J=11.9 Hz, 1H), 3.02 (s, 3H), 2.55 (s, 3H), 1.65-1.77 (m, 2H), 1.51-1.65 (m, 2H), 1.41 (s, 6H), 1.25 (s, 6H).

reactant | 6-(6-methoxy-2-methyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-5-yl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.082 mmol, 44 mg | COC=1C(=CC2=C(N(C(=N2)C)COCC[Si](C)(C)C)C1)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C | C29H46N6O2Si
reactant | BBr3 | B(Br)(Br)Br | BBr3
product | 2-methyl-5-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-1H-benzo[d]imidazol-6-ol | 50% yield | CC1=NC2=C(N1)C=C(C(=C2)C=2N=NC(=CC2)N(C2CC(NC(C2)(C)C)(C)C)C)O | C22H30N6O
